US06596904B1
The general procedure for the process of the invention involves reacting 5-amino-N,N′-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide with N,N-dimethylacetamide and chloroacetyl chloride. The resulting product is hydrolyzed with a base (such as sodium hydroxide). A homogeneous solution is obtained by adding water. Precipitation is affected to yield N,N′-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide. Alternately, 5-amino-N,N′-bis(2,3-dihydroxypropyl)-2,4,6-triiodoisophthalamide is reacted with N,N-dimethylacetamide, acetonitrile, and chloroacetyl chloride. The resulting product is hydrolyzed with a base. A homogeneous solution is obtained by adding water. Precipitation is affected to yield N,N′-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide. This product is combined with an aqueous base and deionized water. 2-Chloroethanol is added followed by heating. The addition of hydrochloric acid yields N,N′-bis(2,3-dihydroxypropyl)-5-[N-(2-hydroxyethyl)(2-chloroacetamido)]-2,4,6-triiodoisophthalamide. Alternately, N,N′-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide plus metal halide and deionized water are combined. Ethylene oxide is added followed by heating. The addition of hydrochloric acid yields N,N′-bis(2,3-dihydroxypropyl)-5-[N-(2-hydroxyethyl)(2-chloroacetamido)]-2,4,6-triiodoisophthalamide. This product is suspended in water with acetate ions and hydrochloric acid added. This suspended solution can take place at or above atmospheric pressure. Generally about 1 to about 2 atmospheres above atmospheric pressure is used. After adding aqueous sodium hydroxide to, maintain the pH, the reaction yields N,N′-bis(2,3-dihydroxypropyl)-5-N-(2-hydroxyethyl)glycolamido-2,4,6-triiodoisopthalamide. Finally, salts and low molecular weight impurities are removed.

reactant | N,N′-bis(2,3-dihydroxypropyl)-5-(2-chloroacetamido)-2,4,6-triiodoisophthalamide | OC(CNC(C1=C(C(C(=O)NCC(CO)O)=C(C(=C1I)NC(CCl)=O)I)I)=O)CO | C16H19ClI3N3O7
reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N,N′-bis(2,3-dihydroxypropyl)-5-[N-(2-hydroxyethyl)(2-chloroacetamido)]-2,4,6-triiodoisophthalamide | OC(CNC(C1=C(C(C(=O)NCC(CO)O)=C(C(=C1I)N(C(CCl)=O)CCO)I)I)=O)CO | C18H23ClI3N3O8
